US04888355
A solution of 10.8 ml of pyrrolidine in 6.75 g of 2,3-epoxy-indane [described by Mousseron et al., Bull. de Soc. Chim. de France, 1946, p. 629-630] was slowly added to 10.8 ml of demineralized water and after increasing the temperature to 65° C., the mixture was stirred for 90 minutes at 65° C. 20 ml of demineralized water were then added and excess pyrrolidine was distilled off at reduced pressure to obtain an oil phase and an aqueous phase. The aqueouse phase was saturated with sodium chloride and 1 ml of 32% sodium hydroxide was added thereto. The mixture was extacted with ether and the ether phase was dried and evaporated to dryness under reduced pressure. The oil residue was chromatographed over silica and eluted with ethyl acetate containing 5% of triethylamine to obtain 8.81 g of trans (±) 2,3-dihydro-1-(pyrrolidin-1-yl)-1H-inden-2-ol.

reactant | pyrrolidine | 10.8 ml | N1CCCC1 | C4H9N
reactant | water | 10.8 ml | O | H2O
reactant | water | 20 ml | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | 2,3-epoxy-indane | 6.75 g | O1C2CC3=CC=CC=C3C21 | C9H8O
solvent | ether | CCOCC | C4H10O
product | trans (±) 2,3-dihydro-1-(pyrrolidin-1-yl)-1H-inden-2-ol | 8.81 g | N1(CCCC1)[C@H]1[C@@H](CC2=CC=CC=C12)O | C13H17NO
